US07183415B2
Methyl 4-[(1Z)-2-nitropenta-1-enyl]benzoate
n-Butylamine (8.31 ml, 84.1 mmol) and methyl 4-formylbenzoate (10.6 g, 64.7 mmol) was heated with reflux benzene (50 ml) in a Dean-Stark trap until a theoretical amount of water was recovered. The solvent was evaporated under reduced pressure. To the residue were added glacial acetic acid (30 ml) and nitrobutane (10.0 g, 97.0 mmol), and the mixture was stirred at 110° C. for 4 hrs. and allowed to cool to room temperature. The insoluble materials were filtered off and dried to give the title compound (7.53 g) as a pale-yellow powder.

reactant | n-Butylamine | 84.1 mmol, 8.31 ml | C(CCC)N | C4H11N
reactant | methyl 4-formylbenzoate | 64.7 mmol, 10.6 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | nitrobutane | 97.0 mmol, 10.0 g | [N+](=O)([O-])CCCC | C4H9NO2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | Methyl 4-[(1Z)-2-nitropenta-1-enyl]benzoate | 7.53 g | [N+](=O)([O-])\C(=C/C1=CC=C(C(=O)OC)C=C1)\CCC | C13H15NO4
